US04863920
3.70 g (12.7 mmol) of 3-[(Z)-2-chlorovinyl]-8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was heated to boiling under reflux for 4 hours together with 2.26 ml (15.2 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene 30 ml of N,N-dimethylformamide. The reaction mixture was subsequently poured into 400 ml of water and extracted five times with methylene chloride. The organic extracts were washed four times with water, dried over magnesium sulphate and evaporated. The residue was dissolved in ethyl acetate, treated with charcoal and recrystallized from ethyl acetate. There was obtained 3-ethynyl-8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepine-6-one of melting point 207°-208°.

reactant | 3-[(Z)-2-chlorovinyl]-8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 12.7 mmol, 3.70 g | Cl\C=C/C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C14H11ClFN3O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 15.2 mmol, 2.26 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 400 ml | O | H2O
product | 3-ethynyl-8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepine-6-one | C(#C)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C14H10FN3O
